US06528223B1
N,N-Dibutyl-N′-benzoylthiourea (Compound 1-1)
To a solution of 36.93 g (380 mmol) of potassium thiocyanate in 600 ml of acetone was added dropwise over 15 mins, 53.42 g (380 mmol) of benzoyl chloride. The resultant mixture was heated at reflux for 20 mins. To this mixture was added over 10 mins, 51.70 g (400 mmol) of dibutylamine. The mixture was stirred for 3 hrs and poured into a solution of 100 ml of concentrated HCl and 800 ml of ice. The yellow solid precipitate was collected, washed with water and recrystallized from isopropanol. The white solid was collected and dried to give 70.12 g of product (63.1% yield); mp: 90-93° C. The NMR spectrum was consistent with the proposed structure. Anal. Calcd. for C16H24N2OS: C, 65.7; H, 8.3; N, 9.6; S, 11.0. Found: C, 65.84; H, 8.25; N, 9.61; S, 10.7.

reactant | potassium thiocyanate | 380 mmol, 36.93 g | [S-]C#N.[K+]
reactant | benzoyl chloride | 380 mmol, 53.42 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dibutylamine | 400 mmol, 51.70 g | C(CCC)NCCCC | C8H19N
reactant | HCl | 100 ml | Cl | ClH
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | N,N-Dibutyl-N′-benzoylthiourea | 70.12 g, 63.1% yield | C(CCC)N(C(=S)NC(C1=CC=CC=C1)=O)CCCC | C16H24N2OS
